US07087626B2
(S)-5-Benzyloxymethyl-1-[2-(4-fluoro-phenyl)-1-(6-methyl-pyridin-2-yl)-ethylideneamino]-pyrrolidin-2-one
A mixture of (S)-1-amino-5-benzyloxymethyl-pyrrolidin-2-one (0.5 g, 2.27 mmol) and 2-(4-fluoro-phenyl)-1-(6-methyl-pyridin-2-yl)-ethanone (0.52 g, 2.27 mmol) in toluene (2.5 mL) in a round bottom flask equipped with a Dean-Stark apparatus is refluxed for 1 h. The mixture is concentrated in vacuo and the residue chromatographed on SiO2 (40% ethyl acetate/hexanes) to yield the title compound, 500 mg (52%), as a pale yellow oil.

reactant | (S)-1-amino-5-benzyloxymethyl-pyrrolidin-2-one | 2.27 mmol, 0.5 g | NN1C(CC[C@H]1COCC1=CC=CC=C1)=O | C12H16N2O2
reactant | 2-(4-fluoro-phenyl)-1-(6-methyl-pyridin-2-yl)-ethanone | 2.27 mmol, 0.52 g | FC1=CC=C(C=C1)CC(=O)C1=NC(=CC=C1)C | C14H12FNO
solvent | toluene | 2.5 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-5-Benzyloxymethyl-1-[2-(4-fluoro-phenyl)-1-(6-methyl-pyridin-2-yl)-ethylideneamino]-pyrrolidin-2-one | C(C1=CC=CC=C1)OC[C@@H]1CCC(N1N=C(CC1=CC=C(C=C1)F)C1=NC(=CC=C1)C)=O | C26H26FN3O2
